US04538003
To 0.05 g (0.065 mmoles) of [NitriphosCl]PF6 and 2.00 g (13.61 mmoles) of o-dichlorobenzene in 20 mL of ether at 0° C. was added 19.65 g (13.70 mmoles) of 0.697 mmoles/g of n-dodecylMgBr in THF. The mixture was refluxed overnight, poured into NH4Cl solution, extracted with ether, dried over MgSO4, and the solvent was removed by rotary evaporation. The residue was distilled (101° to 105° C./0.14 mm) to give 1.806 g (6.44 mmoles, 47.4%) of 1-chloro-2-dodecylbenzene. 1H NMR (200 MHz, CDCl3): δ7.4-7.0 (m, 4H), 2.70 (t, J=8 Hz, 2H), 1.6 (m, 2H), 1.3 (br s, 18H), 0.9 (m, 3H). High resolution mass spectrum: calculated for C18H29Cl: 280.1957; Found: 280.1954. Elemental analysis: Calculated for C18H29Cl: C, 76.97; H, 10.41; Found: C, 77.11; H, 10.47. IR(neat): 2935s, 2860s, 1478m, 1470m, 1460sh, 1445m cm-1.

reactant | o-dichlorobenzene | 13.61 mmoles, 2.00 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | NH4Cl | [NH4+].[Cl-]
reactant | THF | C1CCOC1 | C4H8O
solvent | ether | 20 mL | CCOCC | C4H10O
product | 1-chloro-2-dodecylbenzene | 6.44 mmoles, 1.806 g, 47.4% | ClC1=C(C=CC=C1)CCCCCCCCCCCC | C18H29Cl
